US08809378B2
5-Bromo-2-methoxypyrimidine (S)
Sodium metal (74 mg, 3.10 mmol) was added in portions to CH3OH (25 mL) at 0° C. and the mixture was stirred for 30 min at RT. 5-Bromo-2-chloropyrimidine (500 mg, 2.58 mmol) was added to the above mixture at 0° C., and the resulting reaction mixture was gradually heated to reflux temperature and stirred for 2 h. After complete consumption of the starting material (by TLC), the volatiles were concentrated under reduced pressure; the residue was quenched with ice-cold water (50 mL) and extracted with EtOAc (2×50 mL). The combined organic extracts were washed with water (50 mL) and brine (50 mL), dried over anhydrous Na2SO4 and concentrated under reduced pressure to obtain the crude S (400 mg). The crude material was used directly in the next step without any further purification.

reactant | Sodium | 3.10 mmol, 74 mg | [Na] | Na
reactant | 5-Bromo-2-chloropyrimidine | 2.58 mmol, 500 mg | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | CH3OH | 25 mL | CO | CH4O
product | 5-Bromo-2-methoxypyrimidine | BrC=1C=NC(=NC1)OC | C5H5BrN2O
